US08198450B2
Preparation of (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one glycolate
A suspension of 2.075 g (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one base (5.286 mmoles) in 25 ml methanol is heated to 50° C. A solution of 0.402 g glycolic acid (5.286 mmoles) in 5 ml methanol is added dropwise over 7 minutes. The resulting clear solution is stirred at 50° C. Crystallization takes spontaneously place after ca 15 minutes. The white suspension is allowed to cool to room temperature and stirred over night at ca. 25° C. After 18 hours the salt is filtered. The filter cake is washed with 7 ml methanol and dried first 20 hours at 60° C. and ca. 10 mbar and then 2 hours at 60° C. and ca. 1 mbar.

reactant | (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one | 5.286 mmoles, 2.075 g | C(C)C=1C=C2CC(CC2=CC1CC)NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O | C24H28N2O3
reactant | glycolic acid | 5.286 mmoles, 0.402 g | C(CO)(=O)O | C2H4O3
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one glycolate | C(CO)(=O)O.C(C)C=1C=C2CC(CC2=CC1CC)NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O | InChI=1S/C24H28N2O3.C2H4O3/c1-3-14-9-16-11-18(12-17(16)10-15(14)4-2)25-13-22(28)19-5-7-21(27)24-20(19)6-8-23(29)26-24;3-1-2(4)5/h5-10,18,22,25,27-28H,3-4,11-13H2,1-2H3,(H,26,29);3H,1H2,(H,4,5)/t22-;/m0./s1
